US07872006B2
To a solution of 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole (3.63 g) in toluene (30 mL) was added diphenylphosphorylazide (2.37 mL) and triethylamine (1.67 mL) at 0° C. under nitrogen-gas atmosphere and the mixture was stirred at the same temperature for 30 minutes and at 80° C. for 3 hours. After cooling to 0° C., to the reaction mixture was added benzyl alcohol (1.86 mL) and 4-dimethylaminopyridine (61 mg) and the mixture was stirred at 80° C. overnight. After cooling to room temperature, to the reaction mixture was added an aqueous sodium hydrogencarbonate solution. After stirring, the mixture was extracted with ethyl acetate and the extract was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the resultant crude product was purified by column chromatography on silica gel (solvent: hexane/ethyl acetate=80/20 to 60/40) to obtain 3-benzyloxycarbonylamino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole (4.15 g, yield: 89%) as a pale yellow viscidity.

reactant | 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole | 3.63 g | C(=O)(O)C1=NN(C(=C1OC)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H12Cl2N2O3
reactant | diphenylphosphorylazide | 2.37 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.86 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 1.67 mL | C(C)N(CC)CC | C6H15N
product | 3-benzyloxycarbonylamino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole | 4.15 g, yield: 89% | C(C1=CC=CC=C1)OC(=O)NC1=NN(C(=C1OC)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C24H19Cl2N3O3
